** sch_path: /shared/designs/Layouts/ib_ctat_ptat/ctat_ptat_core.sch
.subckt ctat_ptat_core VDD GND Iref
*.PININFO VDD:B GND:B Iref:B
M1 net9 net3 VDD net14 sg13_lv_pmos w=1u l=2u ng=1 m=1
M2 Iref net3 VDD net14 sg13_lv_pmos w=1u l=2u ng=1 m=6
M3 Iref net1 VDD net14 sg13_lv_pmos w=1u l=2u ng=1 m=6
M4 net11 net1 VDD net14 sg13_lv_pmos w=1u l=2u ng=1 m=1
M12 net8 net3 VDD net14 sg13_lv_pmos w=1u l=2u ng=1 m=1
M13 net6 net3 VDD net14 sg13_lv_pmos w=1u l=2u ng=1 m=1
M5 net10 net1 VDD net14 sg13_lv_pmos w=1u l=2u ng=1 m=1
M7 net4 net6 net7 net5 sg13_lv_nmos w=0.5u l=1.2u ng=1 m=1
M10 net7 net8 GND net5 sg13_lv_nmos w=0.5u l=1.2u ng=1 m=1
M11 net8 net8 net7 net5 sg13_lv_nmos w=10u l=0.26u ng=1 m=30
M16 net6 net6 net4 net5 sg13_lv_nmos w=10u l=0.26u ng=1 m=30
M24 GND GND net2 net12 sg13_lv_pmos w=10u l=0.36u ng=1 m=20
M25 net2 GND net11 net12 sg13_lv_pmos w=10u l=0.36u ng=1 m=1
R1 net10 net13 rppd w=0.5e-6 l=1170e-6 m=1 b=0
R3 net13 GND rhigh w=0.5e-6 l=27e-6 m=1 b=0
R10 net9 GND rppd w=0.5e-6 l=2110e-6 m=1 b=0
M6 VDD VDD VDD net14 sg13_lv_pmos w=1u l=2u ng=1 m=1
M8 net15 net9 GND net5 sg13_lv_nmos w=10u l=8u ng=1 m=6
M9 net15 net15 VDD net16 sg13_lv_pmos w=10u l=0.5u ng=1 m=4
M14 net3 net15 VDD net16 sg13_lv_pmos w=10u l=0.5u ng=1 m=4
M15 net3 net4 GND net5 sg13_lv_nmos w=10u l=8u ng=1 m=6
R2 VDD net16 ntap1 A=2e-11 P=4.2e-05
R4_opamp GND net5 ptap1 A=5.6e-11 P=0.000114
M17 net17 net10 GND net5 sg13_lv_nmos w=10u l=8u ng=1 m=6
M18 net17 net17 VDD net18 sg13_lv_pmos w=10u l=0.5u ng=1 m=4
M19 net1 net17 VDD net18 sg13_lv_pmos w=10u l=0.5u ng=1 m=4
M20 net1 net2 GND net5 sg13_lv_nmos w=10u l=8u ng=1 m=6
R5 VDD net18 ntap1 A=2e-11 P=4.2e-05
R6_opamp GND net5 ptap1 A=5.6e-11 P=0.000114
R7 VDD net14 ntap1 A=5e-12 P=1.2e-05
R8 VDD net14 ntap1 A=5e-12 P=1.2e-05
R9 VDD net12 ntap1 A=8e-12 P=1.8e-05
R11_PTAT GND net5 ptap1 A=1.9e-11 P=4e-05
.ends
